US04851160
2,3,4-Trichloro-5-fluoro-benzoyl chloride
737 g (3.02 mols) of 2,3,4-trichloro-5-fluorobenzoic acid are introduced into 1.5 liters of thionyl chloride at room temperature, and the mixture is refluxed for 16 hours until the gas evolution ceases. Excess thionyl chloride is removed by distillation, and the residue is distilled.

reactant | 2,3,4-trichloro-5-fluorobenzoic acid | 3.02 mols, 737 g | ClC1=C(C(=O)O)C=C(C(=C1Cl)Cl)F | C7H2Cl3FO2
reactant | thionyl chloride | 1.5 liters | S(=O)(Cl)Cl | Cl2OS
product | 2,3,4-Trichloro-5-fluoro-benzoyl chloride | ClC1=C(C(=O)Cl)C=C(C(=C1Cl)Cl)F | C7HCl4FO
